US04563455
A mixture of 2-cyanomethyl-1-phenyl-1H-benzimidazole (6.2 g), sodium azide (5.18 g) and ammonium chloride (4.27 g) in N,N-dimethylformamide (62 ml) was heated at 100° C. for 4 hours. The reaction mixture was poured into water (620 ml) and the aqueous mixture was adjusted to pH 9 with 1 N sodium hydroxide. After being washed with ethyl acetate, the aqueous layer was further adjusted to pH 4 with acetic acid and extracted twice with ethyl acetate. The combined extract was washed with water and saturated sodium chloride in turn and dried over magnesium sulfate. The solvent was removed under reduced pressure to give a residue, which was recrystallized from a mixture of methanol and diisopropyl ether to give 5-(1-phenyl-1H-benzimidazol-2-yl)methyl-1H-tetrazole (5.3 g).

reactant | 2-cyanomethyl-1-phenyl-1H-benzimidazole | 6.2 g | C(#N)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C15H11N3
reactant | sodium azide | 5.18 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.27 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 62 ml | CN(C=O)C | C3H7NO
solvent | water | 620 ml | O | H2O
product | 5-(1-phenyl-1H-benzimidazol-2-yl)methyl-1H-tetrazole | 5.3 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CC2=NN=NN2 | C15H12N6
